US07968579B2
A suspension of 4-(4-fluorophenyl)-1-trityl-1H-pyrazole (0.370 g) was suspended in a mixture solution of trifluoroacetic acid (5 ml)/methylene chloride (10 ml) and stirred for 10 min at room temperature, followed by irradiating microwaves thereto at 70° C. for 20 min to induce a reaction. After the reaction was terminated, the solution was diluted in methylene chloride (20 ml), neutralized with 1N sodium hydroxide (20 ml), and washed with distilled water (30 ml) and then with brine (20 ml). The washed organic layer thus formed was dried over anhydrous magnesium sulfate and concentrated by evaporation in a vacuum. The residue thus obtained was separated using silica gel chromatography to give 4-(4-fluorophenyl)-1H-pyrazole (Yield 81%).

reactant | 4-(4-fluorophenyl)-1-trityl-1H-pyrazole | 0.370 g | FC1=CC=C(C=C1)C=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H21FN2
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-fluorophenyl)-1H-pyrazole | Yield 81% | FC1=CC=C(C=C1)C=1C=NNC1 | C9H7FN2
